US08022099B2
b) [(3RS,4SR)-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-(4-trifluoromethyl-benzyl)-amine
To a stirred solution of [(3RS,4SR)-1-benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-(4-trifluoromethyl-benzyl)-amine (500 mg, 1.09 mmol) in CH3CN (7 ml) at RT, was added 2,2,2-trichloroethyl chloroformate (0.22 ml, 1.63 mmol). The reaction mixture was stirred at RT for 3 hours, concentrated under vacuo. The residue was dissolved in AcOH (5 ml) and zinc dust (200 mg) was added portion wise over 1 hours. The solvent was evaporated, the residue diluted in EtOAc and the organic phase was washed with an aqueous solution of NaHCO3. The organic phase was dried over Na2SO4 and concentrated under vacuo. The product was purified by column chromatography (CH2Cl2/MeOH: 9/1) to afford 305 mg (76%) of the tile compound as a colorless oil. ES-MS m/e: 369.2 (M+H+).

reactant | [(3RS,4SR)-1-benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-(4-trifluoromethyl-benzyl)-amine | 1.09 mmol, 500 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=CC=C1)Cl)N(CC1=CC=C(C=C1)C(F)(F)F)C | C26H26ClF3N2
reactant | 2,2,2-trichloroethyl chloroformate | 1.63 mmol, 0.22 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | CH3CN | 7 ml | CC#N | C2H3N
product | [(3RS,4SR)-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-(4-trifluoromethyl-benzyl)-amine | 305 mg, 76% | ClC=1C=C(C=CC1)C1C(CNC1)N(CC1=CC=C(C=C1)C(F)(F)F)C | C19H20ClF3N2
